US09062092B2
Compound 45b. 2-(1-Hydroxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester
A cooled (−78° C.) solution of N,N-diisopropylamine (1.3 mL, 9.092 mmol, dried over calcium hydride) in anhydrous tetrahydrofuran (10 mL) was treated with a solution of n-butyllithium in hexanes (3.4 mL, 8.524 mmol, 2.5 M). After stirring at −78° C. for 30 minutes, the mixture was treated with a solution of morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester (1.394 g, 5.683 mmol) in anhydrous tetrahydrofuran (10 mL). After stirring at −78° C. for 20 minutes, the mixture was treated with acetaldehyde (0.96 mL, 17.05 mmol). After stirring at room temperature for 1 h, the reaction was quenched at 0° C. with hydrochloric acid (1 M, 40 mL). The aqueous layer was extracted with dichloromethane (2×). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 3:2 to afford the title compound (1.476 g, 90%) as a yellow oil and as a 2:1 mixture of diastereoisomers.

reactant | N,N-diisopropylamine | 9.092 mmol, 1.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | 5.683 mmol, 1.394 g | COC(=O)C1CN(CCO1)C(=O)OC(C)(C)C | C11H19NO5
reactant | acetaldehyde | 17.05 mmol, 0.96 mL | C(C)=O | C2H4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(1-Hydroxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | 1.476 g, 90% | COC(=O)C1(CN(CCO1)C(=O)OC(C)(C)C)C(C)O | C13H23NO6
